US05190971
3-Methoxy-4-methyl-N-pivaloylaniline
5.1 g (37 mmol) of 3-methoxy-4-methylaniline are dissolved in 70 ml of methylene chloride, and treated with 70 ml of satd. NaHCO3 solution and with 4.6 ml (37 mmol) of pivaloyl chloride. After stirring vigorously for 12 hours, the organic phase is separated off, washed with 1N hydrochloric acid and water, dried over magnesium sulphate and concentrated in vacuo. The product is obtained in crystalline form and is further processed without further purification.

reactant | 3-methoxy-4-methylaniline | 37 mmol, 5.1 g | COC=1C=C(N)C=CC1C | C8H11NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | pivaloyl chloride | 37 mmol, 4.6 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 3-Methoxy-4-methyl-N-pivaloylaniline | COC=1C=C(NC(C(C)(C)C)=O)C=CC1C | C13H19NO2
